US09353107B2
Step-ii: 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(3-methoxy-4-(piperazin-1-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine hydrochloride
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl)piperazine-1-carboxylate (190 mg, 0.257 mmol) was deprotected in methanol/HCl in diethyl ether (5/3 ml) to afford 120 mg (69.0% yield) of the titled compound. MS: m/z=637.3 (M+1).

reactant | tert-butyl 4-(4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl)piperazine-1-carboxylate | 0.257 mmol, 190 mg | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=CC(=C(C=C3)N3CCN(CC3)C(=O)OC(C)(C)C)OC)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C40H41FN6O5S
reactant | methanol HCl | CO.Cl
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
product | 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(3-methoxy-4-(piperazin-1-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine hydrochloride | 120 mg, 69.0% yield | Cl.FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=CC(=C(C=C3)N3CCNCC3)OC)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | InChI=1S/C35H33FN6O3S.ClH/c1-24-6-9-30(10-7-24)46(43,44)42-23-32(28-20-39-41(22-28)21-25-4-3-5-29(36)16-25)31-17-27(19-38-35(31)42)26-8-11-33(34(18-26)45-2)40-14-12-37-13-15-40;/h3-11,16-20,22-23,37H,12-15,21H2,1-2H3;1H
